** Name: SimpleTwoStageOpAmp_SimpleOpAmp80_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp80_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=95e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=36e-6
mDiodeTransistorNmos3 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=6e-6 W=26e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=101e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=598e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=96e-6
mDiodeTransistorPmos7 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=1e-6 W=23e-6
mNormalTransistorNmos8 outFirstStage outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=1e-6 W=14e-6
mNormalTransistorNmos9 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=263e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mNormalTransistorNmos11 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mNormalTransistorNmos12 FirstStageYout1 outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=1e-6 W=14e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=13e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=13e-6
mNormalTransistorNmos15 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=6e-6 W=95e-6
mNormalTransistorNmos16 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=26e-6
mNormalTransistorNmos17 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=600e-6
mNormalTransistorNmos18 out outFirstStage sourceNmos sourceNmos nmos4 L=7e-6 W=573e-6
mNormalTransistorPmos19 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=41e-6
mNormalTransistorPmos20 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=320e-6
mNormalTransistorPmos21 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=41e-6
mNormalTransistorPmos22 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=19e-6
mNormalTransistorPmos23 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=19e-6
mNormalTransistorPmos24 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=101e-6
mNormalTransistorPmos25 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=598e-6
Capacitor1 outFirstStage out 2.30001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp80_5

** Expected Performance Values: 
** Gain: 135 dB
** Power consumption: 8.95801 mW
** Area: 14140 (mu_m)^2
** Transit frequency: 13.7181 MHz
** Transit frequency with error factor: 13.7179 MHz
** Slew rate: 13.5723 V/mu_s
** Phase margin: 64.7443°
** CMRR: 144 dB
** VoutMax: 3.77001 V
** VoutMin: 0.290001 V
** VcmMax: 5.04001 V
** VcmMin: 1.32001 V


** Expected Currents: 
** NormalTransistorNmos: 100.273 muA
** NormalTransistorNmos: 229.594 muA
** NormalTransistorPmos: -765.317 muA
** NormalTransistorPmos: -26.6659 muA
** NormalTransistorPmos: -44.7309 muA
** NormalTransistorPmos: -26.6659 muA
** NormalTransistorPmos: -44.7309 muA
** NormalTransistorNmos: 26.6651 muA
** NormalTransistorNmos: 26.6651 muA
** NormalTransistorNmos: 26.6651 muA
** NormalTransistorNmos: 26.6651 muA
** NormalTransistorNmos: 36.1281 muA
** DiodeTransistorNmos: 36.1291 muA
** NormalTransistorNmos: 18.0641 muA
** NormalTransistorNmos: 18.0641 muA
** NormalTransistorNmos: 597.045 muA
** NormalTransistorPmos: -597.044 muA
** DiodeTransistorPmos: -597.045 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorNmos: 765.318 muA
** DiodeTransistorPmos: -100.272 muA
** NormalTransistorPmos: -100.273 muA
** DiodeTransistorPmos: -229.593 muA
** DiodeTransistorPmos: -229.594 muA


** Expected Voltages: 
** ibias: 1.13901  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX2: 2.75801  V
** out: 2.5  V
** outFirstStage: 0.700001  V
** outInputVoltageBiasXXpXX1: 3.20201  V
** outSourceVoltageBiasXXnXX1: 0.570001  V
** outSourceVoltageBiasXXpXX1: 4.10101  V
** outSourceVoltageBiasXXpXX2: 4.07201  V
** outVoltageBiasXXnXX2: 0.905001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.350001  V
** innerTransistorStack2Load2: 0.350001  V
** out1: 0.555001  V
** sourceGCC1: 3.51201  V
** sourceGCC2: 3.51201  V
** sourceTransconductance: 1.91301  V
** inner: 0.569001  V
** inner: 4.09801  V


.END