** Name: SimpleTwoStageOpAmp_SimpleOpAmp81_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp81_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=4e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=12e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=3e-6 W=53e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=6e-6 W=53e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=4e-6 W=46e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=50e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=9e-6
mNormalTransistorNmos8 out ibias sourceNmos sourceNmos nmos4 L=4e-6 W=598e-6
mNormalTransistorNmos9 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=6e-6 W=53e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=204e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=47e-6
mNormalTransistorNmos12 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=3e-6 W=53e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=184e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=184e-6
mNormalTransistorNmos15 FirstStageYsourceTransconductance inputVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=89e-6
mNormalTransistorPmos16 inputVoltageBiasXXnXX1 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=4e-6 W=537e-6
mNormalTransistorPmos17 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=575e-6
mNormalTransistorPmos18 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=133e-6
mNormalTransistorPmos19 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=133e-6
mNormalTransistorPmos20 FirstStageYsourceGCC1 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=4e-6 W=361e-6
mNormalTransistorPmos21 FirstStageYsourceGCC2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=4e-6 W=361e-6
mNormalTransistorPmos22 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=600e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 8.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp81_10

** Expected Performance Values: 
** Gain: 131 dB
** Power consumption: 13.2021 mW
** Area: 13523 (mu_m)^2
** Transit frequency: 14.1641 MHz
** Transit frequency with error factor: 14.164 MHz
** Slew rate: 13.3495 V/mu_s
** Phase margin: 60.1606°
** CMRR: 136 dB
** VoutMax: 4.25 V
** VoutMin: 0.340001 V
** VcmMax: 5.08001 V
** VcmMin: 1.48001 V


** Expected Currents: 
** NormalTransistorNmos: 507.67 muA
** NormalTransistorNmos: 22.2791 muA
** NormalTransistorPmos: -259.243 muA
** NormalTransistorPmos: -116.818 muA
** NormalTransistorPmos: -175.226 muA
** NormalTransistorPmos: -116.822 muA
** NormalTransistorPmos: -175.232 muA
** DiodeTransistorNmos: 116.821 muA
** NormalTransistorNmos: 116.822 muA
** NormalTransistorNmos: 116.823 muA
** DiodeTransistorNmos: 116.822 muA
** NormalTransistorNmos: 116.818 muA
** NormalTransistorNmos: 116.817 muA
** NormalTransistorNmos: 58.4091 muA
** NormalTransistorNmos: 58.4091 muA
** NormalTransistorNmos: 1490.7 muA
** NormalTransistorPmos: -1490.69 muA
** NormalTransistorPmos: -1490.69 muA
** DiodeTransistorNmos: 259.244 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -507.669 muA
** DiodeTransistorPmos: -22.2799 muA


** Expected Voltages: 
** ibias: 0.747001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.12301  V
** inputVoltageBiasXXpXX2: 4.10701  V
** out: 2.5  V
** outFirstStage: 4.06501  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.542001  V
** innerTransistorStack1Load2: 0.681001  V
** innerTransistorStack2Load2: 0.684001  V
** out1: 1.48301  V
** sourceGCC1: 4.47101  V
** sourceGCC2: 4.47101  V
** sourceTransconductance: 1.94501  V
** innerTransconductance: 4.62901  V


.END