** Name: SimpleTwoStageOpAmp_SimpleOpAmp81_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp81_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=14e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=3e-6 W=119e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=6e-6 W=119e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=1e-6 W=19e-6
mDiodeTransistorPmos6 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=544e-6
mDiodeTransistorPmos8 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=310e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=290e-6
mNormalTransistorNmos10 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=189e-6
mNormalTransistorNmos11 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=6e-6 W=119e-6
mNormalTransistorNmos12 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=35e-6
mNormalTransistorNmos13 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=136e-6
mNormalTransistorNmos14 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=3e-6 W=119e-6
mNormalTransistorNmos15 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=108e-6
mNormalTransistorNmos16 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=108e-6
mNormalTransistorNmos17 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=138e-6
mNormalTransistorPmos18 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=544e-6
mNormalTransistorPmos19 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=40e-6
mNormalTransistorPmos20 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=40e-6
mNormalTransistorPmos21 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=193e-6
mNormalTransistorPmos22 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=193e-6
mNormalTransistorPmos23 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp81_5

** Expected Performance Values: 
** Gain: 123 dB
** Power consumption: 14.9851 mW
** Area: 9339 (mu_m)^2
** Transit frequency: 28.7341 MHz
** Transit frequency with error factor: 28.7338 MHz
** Slew rate: 34.9322 V/mu_s
** Phase margin: 63.5984°
** CMRR: 136 dB
** VoutMax: 3 V
** VoutMin: 0.560001 V
** VcmMax: 5.22001 V
** VcmMin: 1.32001 V


** Expected Currents: 
** NormalTransistorNmos: 22.8901 muA
** NormalTransistorNmos: 192.914 muA
** NormalTransistorPmos: -75.5509 muA
** NormalTransistorPmos: -120.021 muA
** NormalTransistorPmos: -75.5509 muA
** NormalTransistorPmos: -120.021 muA
** DiodeTransistorNmos: 75.5501 muA
** NormalTransistorNmos: 75.5511 muA
** NormalTransistorNmos: 75.5501 muA
** DiodeTransistorNmos: 75.5511 muA
** NormalTransistorNmos: 88.9411 muA
** NormalTransistorNmos: 88.9421 muA
** NormalTransistorNmos: 44.4701 muA
** NormalTransistorNmos: 44.4701 muA
** NormalTransistorNmos: 2531.09 muA
** NormalTransistorPmos: -2531.08 muA
** DiodeTransistorPmos: -2531.08 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -22.8909 muA
** NormalTransistorPmos: -22.8919 muA
** DiodeTransistorPmos: -192.913 muA
** DiodeTransistorPmos: -192.914 muA


** Expected Voltages: 
** ibias: 1.12201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX2: 2.93501  V
** out: 2.5  V
** outFirstStage: 0.967001  V
** outInputVoltageBiasXXpXX1: 2.43601  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outSourceVoltageBiasXXpXX1: 3.71801  V
** outSourceVoltageBiasXXpXX2: 4.24901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.566001  V
** innerTransistorStack1Load2: 0.554001  V
** innerTransistorStack2Load2: 0.555001  V
** out1: 1.17201  V
** sourceGCC1: 3.82301  V
** sourceGCC2: 3.82301  V
** sourceTransconductance: 1.88501  V
** inner: 3.71301  V


.END