** Name: SimpleTwoStageOpAmp_SimpleOpAmp81_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp81_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=34e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=30e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=2e-6 W=60e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=5e-6 W=60e-6
mDiodeTransistorPmos5 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=17e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=410e-6
mNormalTransistorNmos8 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=5e-6 W=60e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=15e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=2e-6 W=60e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=83e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=83e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=7e-6 W=145e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=236e-6
mNormalTransistorPmos15 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=152e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=192e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=172e-6
mNormalTransistorPmos18 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=152e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=104e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=104e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp81_7

** Expected Performance Values: 
** Gain: 122 dB
** Power consumption: 14.9721 mW
** Area: 4517 (mu_m)^2
** Transit frequency: 16.9391 MHz
** Transit frequency with error factor: 16.939 MHz
** Slew rate: 16.0132 V/mu_s
** Phase margin: 60.1606°
** CMRR: 141 dB
** VoutMax: 4.25 V
** VoutMin: 0.260001 V
** VcmMax: 5.17001 V
** VcmMin: 1.47001 V


** Expected Currents: 
** NormalTransistorPmos: -194.663 muA
** NormalTransistorPmos: -172.596 muA
** NormalTransistorPmos: -61.7319 muA
** NormalTransistorPmos: -105.442 muA
** NormalTransistorPmos: -61.7319 muA
** NormalTransistorPmos: -105.442 muA
** DiodeTransistorNmos: 61.7311 muA
** NormalTransistorNmos: 61.7301 muA
** NormalTransistorNmos: 61.7311 muA
** DiodeTransistorNmos: 61.7301 muA
** NormalTransistorNmos: 87.4191 muA
** NormalTransistorNmos: 87.4181 muA
** NormalTransistorNmos: 43.7101 muA
** NormalTransistorNmos: 43.7101 muA
** NormalTransistorNmos: 2396.21 muA
** NormalTransistorPmos: -2396.2 muA
** DiodeTransistorNmos: 194.664 muA
** DiodeTransistorNmos: 172.597 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.45301  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** outVoltageBiasXXnXX1: 1.09001  V
** outVoltageBiasXXnXX2: 0.667001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.462001  V
** innerTransistorStack1Load2: 0.560001  V
** innerTransistorStack2Load2: 0.561001  V
** out1: 1.21201  V
** sourceGCC1: 4.16701  V
** sourceGCC2: 4.16701  V
** sourceTransconductance: 1.91801  V


.END